US08664220B2
Step 1: 1-{4′-[4-(3-Bromo-phenylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 68, Step 2, using 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 1,3-dibromo-benzene.

reactant | 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 1,3-dibromo-benzene | BrC1=CC(=CC=C1)Br | C6H4Br2
product | 1-{4′-[4-(3-Bromo-phenylamino)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=CC(=CC=C1)Br | C28H25BrN2O3
